US07786165B2
To a solution of {4′-[(2-ethoxyethyl)thio]-2′,6′-dimethylbiphenyl-3-yl}methanol (0.94 g, 2.98 mmol), tert-butyl 3-(2-fluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (1.13 g, 3.13 mmol) and tributylphosphine (1.03 mL, 3.87 mmol) in tetrahydrofuran (25 mL) was added 1,1′-(azodicarbonyl)dipiperidine (1.01 g, 3.87 mmol) under stirring at room temperature, and the mixture was stirred for 3 days. The resulting precipitate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=5/1-hexane/ethyl acetate=3/1) to give a mixture (1.96 g) of tert-butyl 3-(4-{({4′-[(2-ethoxyethyl)thio]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate, {4′-[(2-ethoxyethyl)thio]-2′,6′-dimethylbiphenyl-3-yl}methanol and tert-butyl 3-(2-fluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate as a yellow oil. In the same manner as in Example 144, the title compound (1.25 g, yield 55%, 2 steps) was obtained as a colorless amorphous powder from the above-mentioned mixture (1.96 g).

reactant | {4′-[(2-ethoxyethyl)thio]-2′,6′-dimethylbiphenyl-3-yl}methanol | 2.98 mmol, 0.94 g | C(C)OCCSC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CO)C | C19H24O2S
reactant | tert-butyl 3-(2-fluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 3.13 mmol, 1.13 g | FC1=C(C=CC(=C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCC(=O)OC(C)(C)C | C19H21FN2O6S
reactant | tributylphosphine | 3.87 mmol, 1.03 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.87 mmol, 1.01 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-(4-{({4′-[(2-ethoxyethyl)thio]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 1.96 g | C(C)OCCSC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CN(C1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C38H43FN2O7S2
